US05728686
Diethyl [3-(3,7-dimethylxanthin-1-yl)propyl]phosphonate
The title substance was prepared from 0.067 mol of theobromine and 0.08 mol of diethyl 3-bromopropanephosphonate analogously to Example 32.

reactant | theobromine | 0.067 mol | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | diethyl 3-bromopropanephosphonate | 0.08 mol | BrCCCP(OCC)(=O)OCC | C7H16BrO3P
product | Diethyl [3-(3,7-dimethylxanthin-1-yl)propyl]phosphonate | CN1C(N(C(C=2N(C=NC12)C)=O)CCCP(OCC)(OCC)=O)=O | C14H23N4O5P
